US06921763B2
B. 3-iodo-1-(1-methyl-3-azetanyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine
To a mixture of to 1-(3-azetanyl)-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-amine diacetate (0.165 g, 0.0005 mol) and sodium triacetoxyborohydride (0.15 g, 0.00073 mol) in dichloroethane (15 mL) was added a 37% solution of formaldehyde in 0.016 mL, 0.000572 mol) at room temperature. The mixture was stirred at room temperature under an atmosphere of nitrogen for 16 hours. Additonal formaldehyde (37% in water, 0.016 mL, 0.000572 mol) and sodium triacetoxyborohydride (0.15 g, 0.00073 mol) were added, and the mixture was stirred at room temperature for 2 days. An aqueous 5N solution of sodium hydroxide (1 mL) was added to the mixture. The solvent was removed under the reduced pressure. The residue was partitioned between water and ethyl acetate. The aqueous layer was extracted with ethyl acetate (2×50 mL). The combined organic extracts were washed with water, and brine, and dried over magnesium sulfate. The solvents were evaporated under the reduced pressure. Majority product was still in aqueous layer. The aqueous layer and the residue from organic layer were combined. The solvent was removed, and the residue was carried to the next step without purification. TLC (methanol/dichloromethane=10:90) Rf 0.48 MS: MH+ 331.

reactant | 1-(3-azetanyl)-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-amine diacetate | 0.0005 mol, 0.165 g | C(C)(=O)O.C(C)(=O)O.N1CC(C1)N1N=C(C=2C1=NC=NC2N)I
reactant | sodium triacetoxyborohydride | 0.00073 mol, 0.15 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | formaldehyde | C=O | CH2O
reactant | formaldehyde | 0.000572 mol, 0.016 mL | C=O | CH2O
reactant | sodium triacetoxyborohydride | 0.00073 mol, 0.15 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | 1 mL | [OH-].[Na+]
solvent | dichloroethane | 15 mL | ClC(C)Cl | C2H4Cl2
product | 3-iodo-1-(1-methyl-3-azetanyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | IC1=NN(C2=NC=NC(=C21)N)C2CN(C2)C | C9H11IN6
